US05232925
4-[2-(2-Pyrimidinylamino)ethoxy]benzaldehyde
Sodium hydride (1.2 g; 60% dispersion in oil) was added portionwise to a stirred solution of 2-(2-pyrimidinyl amino)ethanol (4 g) in DMF (140 ml) under an atmosphere of nitrogen. After the vigorous reaction had subsided 4-fluorobenzaldehyde (5.35 g) was added and the solution heated to 80° C. for 20 hours. After cooling the mixture was added to water (500 ml) and extracted with diethyl ether (3×300 ml). The organic extracts were washed with brine (2×200 ml), dried (MgSO4), filtered and evaporated to dryness. Chromatography of the residue on silica gel in 2% methanol in dichloromethane afforded the title compound, which was used in the next stage without further purification.

reactant | Sodium hydride | 1.2 g | [H-].[Na+]
reactant | 2-(2-pyrimidinyl amino)ethanol | 4 g | N1=C(N=CC=C1)NCCO | C6H9N3O
reactant | 4-fluorobenzaldehyde | 5.35 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | 500 ml | O | H2O
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 4-[2-(2-Pyrimidinylamino)ethoxy]benzaldehyde | N1=C(N=CC=C1)NCCOC1=CC=C(C=O)C=C1 | C13H13N3O2
